US07652058B2
(3aS,6R,7R,7aR)-2-acetyl-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole
The title compound was prepared from (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole and acetic anhydride according to the procedures used for example 19. MS: (MH)+660.

reactant | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CNC2)CO1)C1=C(C=C(C(=C1)I)F)C)(F)F | C24H23F7INO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | (3aS,6R,7R,7aR)-2-acetyl-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | C(C)(=O)N1C[C@@H]2[C@@H](C1)[C@@H]([C@H](OC2)O[C@H](C)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=C(C=C(C(=C2)I)F)C | C26H25F7INO3
